US08110585B2
2,1-benzisothiazole-4-carbaldehyde
Under nitrogen atmosphere, dimethyl sulfoxide (10.8 mL, 153 mmol) was added to a solution of oxalyl chloride (6.68 mL, 76.0 mmol) in dichloromethane (200 mL) at −78° C., and the mixture was stirred for 30 min. To the reaction mixture was added a solution of 2,1-benzisothiazol-4-ylmethanol (4.20 g, 25.4 mmol) in dichloromethane (54 mL), and the mixture was stirred for 2 hr. To the reaction mixture was added triethylamine (32.2 mL, 229 mmol) at −78° C., and the mixture was stirred for 1 hr. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80) to give the title compound (3.94 g, yield 95%).

reactant | dimethyl sulfoxide | 153 mmol, 10.8 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 76.0 mmol, 6.68 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,1-benzisothiazol-4-ylmethanol | 25.4 mmol, 4.20 g | N=1SC=C2C1C=CC=C2CO | C8H7NOS
reactant | triethylamine | 229 mmol, 32.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 54 mL | ClCCl | CH2Cl2
product | 2,1-benzisothiazole-4-carbaldehyde | 3.94 g, yield 95% | N=1SC=C2C1C=CC=C2C=O | C8H5NOS
